US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid as colorless foam.

reactant | [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC(=CC=C1)OC)C)C)OCC)=O | C26H31NO5S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{4-[2-(3-methoxy-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC(=CC=C1)OC)C)C | C24H27NO5S
